US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (5 g, 0.02 mol), N-methylpiperazine (12.5 mL, 2.5 vol) and methanol (15 mL, 3 vol) were charged into a three-necked round bottom flask equipped with a reflux condenser, overhead stirrer, and thermometer. The reaction mixture was slowly heated under nitrogen to reflux (75° C.) and kept at this temperature overnight. The reaction mixture was allowed to cool to below 50° C. and water (15 mL, 3 vol) was added. The precipitated light yellow solid was isolated by filtration, then was washed twice with water (5 mL) and dried to provide olanzapine in 74% yield (4.35 g).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.02 mol, 5 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 12.5 mL | CN1CCNCC1 | C5H12N2
reactant | methanol | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | olanzapine | 74% yield | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
